US07935819B2
To a suspension of 15 g of 4-tert-butylphenyl-isocyanate in 200 mL of toluene are successively added 31.52 mL of triethylamine and 13.15 g of 2,2-dimethylglycine methyl ester hydrochloride. The reaction mixture is refluxed for 24 h, cooled to room temperature, poured into distilled water and extracted with ethyl acetate. The organic phase is washed successively with water and with saturated sodium chloride solution, dried over magnesium sulphate, filtered and concentrated under reduced pressure. The residue is taken up in diethyl ether and the solid formed is filtered off and dried to give 17.75 g of 3-(4-tert-butylphenyl)-5,5-dimethyl-imidazolidine-2,4-dione, the characteristics of which are as follows:

reactant | 4-tert-butylphenyl-isocyanate | 15 g | C(C)(C)(C)C1=CC=C(C=C1)N=C=O | C11H13NO
reactant | triethylamine | 31.52 mL | C(C)N(CC)CC | C6H15N
reactant | 2,2-dimethylglycine methyl ester hydrochloride | 13.15 g | Cl.COC(C(N)(C)C)=O
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(4-tert-butylphenyl)-5,5-dimethyl-imidazolidine-2,4-dione | 17.75 g | C(C)(C)(C)C1=CC=C(C=C1)N1C(NC(C1=O)(C)C)=O | C15H20N2O2
